US07049312B1
Synthesis of 1-Oxo-2H-1,4-Benzothiazin-3(4H)-one
A solution of 3-chloroperbenzoic acid (1.35 g, 6.6 mmol) in dry dichloromethane (40 ml) was added dropwise to an ice cooled solution of 2H-1,4-benzothiazin-3(4H)-one (1.10 g, 6.6 mmol) in dry dichloromethane (100 ml) with stirring. The reaction mixture was allowed to reach room temperature, then stirred overnight. The product was collected by filtration and washed with dichloromethane. Yield 0.54 g (45%) mp 184–6° C.

reactant | 3-chloroperbenzoic acid | 6.6 mmol, 1.35 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2H-1,4-benzothiazin-3(4H)-one | 6.6 mmol, 1.10 g | S1CC(NC2=C1C=CC=C2)=O | C8H7NOS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Oxo-2H-1,4-Benzothiazin-3(4H)-one | O=S1CC(NC2=C1C=CC=C2)=O | C8H7NO2S
